* NGSPICE file created from ota_5t.ext - technology: gf180mcuD

.subckt ota_5t vdd vss inp inm out vb
X0 a_n3610_5037# inp w_n4696_4108# w_n4696_4108# nfet_03v3 ad=0.28p pd=1.56u as=0.6p ps=3.2u w=1u l=1u
X1 out a_n3610_5037# vdd vdd pfet_03v3 ad=0.28p pd=1.56u as=0.6p ps=3.2u w=1u l=1u
X2 out inm w_n4696_4108# w_n4696_4108# nfet_03v3 ad=0.28p pd=1.56u as=0.28p ps=1.56u w=1u l=1u
X3 vss vb w_n4696_4108# vss nfet_03v3 ad=0.6p pd=3.2u as=0.28p ps=1.56u w=1u l=1u
X4 a_n3610_5037# a_n3610_5037# vdd vdd pfet_03v3 ad=0.28p pd=1.56u as=0.6p ps=3.2u w=1u l=1u
X5 a_n3610_5037# a_n3610_5037# vdd vdd pfet_03v3 ad=0.28p pd=1.56u as=0.28p ps=1.56u w=1u l=1u
X6 vss vb w_n4696_4108# vss nfet_03v3 ad=0.28p pd=1.56u as=0.28p ps=1.56u w=1u l=1u
X7 w_n4696_4108# inm out w_n4696_4108# nfet_03v3 ad=0.28p pd=1.56u as=0.28p ps=1.56u w=1u l=1u
X8 w_n4696_4108# vb vss vss nfet_03v3 ad=0.28p pd=1.56u as=0.28p ps=1.56u w=1u l=1u
X9 a_n3610_5037# inp w_n4696_4108# w_n4696_4108# nfet_03v3 ad=0.28p pd=1.56u as=0.28p ps=1.56u w=1u l=1u
X10 w_n4696_4108# vb vss vss nfet_03v3 ad=0.28p pd=1.56u as=0.6p ps=3.2u w=1u l=1u
X11 vdd a_n3610_5037# out vdd pfet_03v3 ad=0.6p pd=3.2u as=0.28p ps=1.56u w=1u l=1u
X12 vdd a_n3610_5037# a_n3610_5037# vdd pfet_03v3 ad=0.28p pd=1.56u as=0.28p ps=1.56u w=1u l=1u
X13 vdd a_n3610_5037# out vdd pfet_03v3 ad=0.28p pd=1.56u as=0.28p ps=1.56u w=1u l=1u
X14 w_n4696_4108# inm out w_n4696_4108# nfet_03v3 ad=0.6p pd=3.2u as=0.28p ps=1.56u w=1u l=1u
X15 w_n4696_4108# inp a_n3610_5037# w_n4696_4108# nfet_03v3 ad=0.6p pd=3.2u as=0.28p ps=1.56u w=1u l=1u
X16 vdd a_n3610_5037# a_n3610_5037# vdd pfet_03v3 ad=0.6p pd=3.2u as=0.28p ps=1.56u w=1u l=1u
X17 out inm w_n4696_4108# w_n4696_4108# nfet_03v3 ad=0.28p pd=1.56u as=0.6p ps=3.2u w=1u l=1u
X18 w_n4696_4108# inp a_n3610_5037# w_n4696_4108# nfet_03v3 ad=0.28p pd=1.56u as=0.28p ps=1.56u w=1u l=1u
X19 out a_n3610_5037# vdd vdd pfet_03v3 ad=0.28p pd=1.56u as=0.28p ps=1.56u w=1u l=1u
.ends

